US07893085B2
3-(2-Fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide
A mixture of 3-(2-fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester (124 mg, 0.28 mmol), 1N aqueous NaOH solution (0.30 ml, 0.30 mmol) and ethanol (4 ml) was heated at 65° C. for 45 minutes. The reaction mixture was concentrated in vacuo then the resultant residue was azeotroped with toluene (2×2 ml) to give a solid residue. The solid residue was dissolved in anhydrous THF (4 ml) before O-(2-vinyloxy-ethyl)-hydroxylamine (58 mg, 0.56 mmol), EDCI (67 mg, 0.35 mmol), HOBt (53 mg, 0.39 mmol) and DIPEA (147 μl, 0.84 mmol) were added. After stirring for 18 hours at ambient temperature the solvent was evaporated and the resultant residue was diluted with water (20 ml), then extracted with ethyl acetate (30 ml) followed by dichloromethane (30 ml). The combined organic layers were dried over sodium sulfate, filtered and evaporated to give a yellow oil. The resultant yellow oil was purified by flash chromatography (Si-SPE, dichloromethane:methanol, gradient 100:0 to 98:2) to afford the title compound as a yellow solid (91 mg, 65%). LCMS (method B): RT=3.05 min, M+H+=500.

reactant | 3-(2-fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.28 mmol, 124 mg | C(C)OC(=O)C1=C(C=2C=NC=CC2S1)NC1=C(C=C(C=C1)I)F | C16H12FIN2O2S
reactant | NaOH | 0.30 mmol, 1N, 0.30 ml | [OH-].[Na+]
reactant | O-(2-vinyloxy-ethyl)-hydroxylamine | 0.56 mmol, 58 mg | C(=C)OCCON | C4H9NO2
reactant | EDCI | 0.35 mmol, 67 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.39 mmol, 53 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.84 mmol, 147 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-(2-Fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide | 91 mg, 65% | C(=C)OCCONC(=O)C1=C(C=2C=NC=CC2S1)NC1=C(C=C(C=C1)I)F | C18H15FIN3O3S
